*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LMC6462B CMOS Dual OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LMC6462B/NS 1   2  99  50  28
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT.
*
*Features:
*Operates from single or dual supplies
*Rail-to-rail input and output swing
*Ultra low input current =             150fA
*Slew rate =                        0.02V/uS
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*      Noise is not modeled.
*      Asymmetrical gain is not modeled.
*
*****************INPUT STAGE************** 
*
I1  99  4 6.9U
M1   5  2 4 99 MOSFET
R3   5 50 3.79K
M2   6  7 4 99 MOSFET
R4   6 50 3.79K
*Fp2=5.9 MHz
C4   5  6 2.3868P
G0  98  9 6 5 4.4165E-2
R0  98  9 1K
DP1  1 99 DA
DP2 50  1 DC
DP3  2 99 DB
DP4 50  2 DC
*For accurate Ib , set GMIN<=1E-16 on .OPTIONS line.
*
***********COMMON MODE EFFECT***********
*
I2 50 99 6.8U
*^Quiescent current                   
EOS  7  1 POLY(1) 16 49 3.0E-3 1
*Offset voltage..........
R8  99 49 250K
R9  49 50 250K
*
***************POLE STAGE*************** 
*
*Fp=13.3 MHz
G3  98 15 9 49 1E-3
R12 98 15 1K
C5  98 15 11.967P
*
************POLE/ZERO STAGE*************
*
*Fp=600 KHz, Fz= 1.4MHz
G5  98 18 15 49 1E-3
R14 98 18 1K
R15 98 19 750
C6  19 18 151.58P
**********COMMON-MODE ZERO STAGE*********
*
*Fpcm=20 KHz
G4  98 16 POLY(2) 1 49 2 49 0 2.812E-8 2.812E-8
L2  98 17 7.958M
R13 17 16 1K
*
**************SECOND STAGE**************
*
EH  97 98 99 49 1
G1  98 29 18 49 5.6667E-6
R5  98 29 100.37MEG
V2  99  8 1.56
D1  29  8 DX
D2  10 29 DX
V3  10 50 1.56
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
*^Dynamic supply current
F5  99 35 VA8 1
D3  36 35 DX
VA7 99 36 0
D4  35 99 DX
E1  99 37 99 49 1
VA8 37 38 0
GN3 98 115 40 49 1U
RN21 98 115 1MEG
EN1 97 123 99 115 1
RN17 123 125 180
RN16 123 124 130
DN6 125 127 DX
DN5 126 124 DX
VN7 28 127 0.63
VN6 126 28 0.63
DN3 115 120 DX
RN18 120 129 350K
VN4 129 28 .27
DN4 121 115 DX
RN19 130 121 350K
VN5 28 130 .27
ENP 97 0 99 0 1
ENN 0 96 0 50 1
DN7 28 99 DX
DN8 50 28 DX
*
*
G6  38 40 49 29 16.667E-3
R16 38 40 2.3886K
V4  30 40 .77
D5  30 97 DX
V5  40 31 .77
D6  96 31 DX
*Fp1=7.96 Hz
C3  29 39 280P
R6  39 40 1K
*
***************MODELS USED**************
*
.MODEL DA D(IS=1.075E-12)
.MODEL DB D(IS=1.15E-12)
.MODEL DC D(IS=1E-12)
.MODEL DX D(IS=1E-14)
.MODEL MOSFET PMOS(VTO=0 KP=1.842E-3)
.ENDS
*
*$
